US05185251
Step B: Preparation of 3-cyano-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone
Acetic acid (2.0 mL, 35 mmol) was added to a solution of crude 4-benzyloxy-3-oxo-2-ethylbutanal (6.4 g, ~24 mmol) and malononitrile (2.22 g, 33 mmol) in ethanol (30 mL) followed by dropwise addition of piperidine (2.37 mL, 24 mmol) to give a dark reddish brown solution. After stirring for 14 hours, a copious precipitate formed. This mixture was warmed at 70° C. for 15 hours and then allowed to cool to room temperature. This blackish mixture was diluted with ethanol and the precipitated product was filtered, rinsed with ethanol and diethyl ether to give off-white product with m.p. of 141°-143° C. Additional material was obtained by evaporation of the filtrate. The residue was extracted into chloroform, and after washing the extract with saturated aqueous NaHCO3, filtered through a pad of charcoal. This amber solution was evaporated and the residue triturated with diethyl ether to give additional product.

reactant | Acetic acid | 35 mmol, 2.0 mL | C(C)(=O)O | C2H4O2
reactant | 4-benzyloxy-3-oxo-2-ethylbutanal | ~24 mmol, 6.4 g | C(C1=CC=CC=C1)OCC(C(C=O)CC)=O | C13H16O3
reactant | malononitrile | 33 mmol, 2.22 g | C(CC#N)#N | C3H2N2
reactant | piperidine | 24 mmol, 2.37 mL | N1CCCCC1 | C5H11N
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-cyano-5-ethyl-6-benzyloxymethyl-2(1H)-pyridinone | C(#N)C=1C(NC(=C(C1)CC)COCC1=CC=CC=C1)=O | C16H16N2O2
